US05622947
In 15 ml of chloroform were dissolved 0.7 g of 5-hydroxy-7-chloro-1-[2-methoxy-4-(2methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine, 0.83 g of dimethylaminopyridine and 0.72 g of dimethylaminopyridine hydrochloride. Thereto were added 0.56 g of N-tert-butoxy-carbonyl-L-methionine and 0.93 g of dicyclohexylcarbodi-imide. The mixture was stirred at room temperature for 3 hours. 3 ml of methanol and 0.7 ml of acetic acid were added, and the mixture was stirred at room temperature for 30 minutes. The resulting insolubles were removed by filtration. The filtrate was mixed with a 5% aqueous sodium hydrogensulfate solution, followed by extraction with dichloromethane. The dichloromethane layer was washed with a saturated aqueous sodium hydrogencarbonate solution and a saturated aqueous sodium chloride solution in this order and dried over magnesium sulfate. The resulting dichloromethane solution was concentrated for solvent removal. The residue was purified by silica gel column chromatography [elutant: dichloromethane/methanol=150/1] to obtain 1.27 g of 5-(N-tert-butoxycarbonyl-L-methionyloxy)-7-chloro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo-azepine.

reactant | 5-hydroxy-7-chloro-1-[2-methoxy-4-(2methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzoazepine | 0.7 g | OC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)OC)=O | C26H25ClN2O4
reactant | dimethylaminopyridine | 0.83 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | dimethylaminopyridine hydrochloride | 0.72 g | Cl.CN(C)C1=NC=CC=C1
reactant | N-tert-butoxy-carbonyl-L-methionine | 0.56 g | C(C)(C)(C)ON[C@@H](C(CSC)=C=O)C(=O)O | C10H17NO4S
reactant | dicyclohexylcarbodi-imide | 0.93 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3 ml | CO | CH4O
product | 5-(N-tert-butoxycarbonyl-L-methionyloxy)-7-chloro-1-[2-methoxy-4-(2-methylbenzoylamino)benzoyl]-2,3,4,5-tetrahydro-1H-benzo-azepine | 1.27 g | C(C)(C)(C)OC(=O)N[C@@H](CCSC)C(=O)OC1CCCN(C2=C1C=C(C=C2)Cl)C(C2=C(C=C(C=C2)NC(C2=C(C=CC=C2)C)=O)OC)=O | C36H42ClN3O7S
